US06235771B1
In DMF (120 ml) was dissolved 4-bromo-3-methylphenol (12 g). To the mixture were added potassium carbonate (11.5 g) and sodium iodide (9.6 g) and then added dropwise 2-chloroethylpropylether (9.7 ml), and the mixture was stirred at 90° C. for 10 hours and cooled to room temperature. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=12/1) to give 4-bromo-3-methyl-1-(2-propoxyethoxy)benzene (11.0 g). 1H-NMR (200 MHz, CDCl3) δ 0.93 (3H, t, J=7.2 Hz), 1.54-1.71 (2H, m), 2.25 (3H, s), 3.48 (2H, t, J=6.6 Hz), 3.73-3.79 (2H, m), 4.05-4.10 (2H, m), 6.63 (1H, dd, J=8.8, 2.8 Hz), 6.82 (1H, d, J=2.8 Hz), 7.38 (1H, d, J=8.8 Hz).

reactant | 4-bromo-3-methylphenol | 12 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | potassium carbonate | 11.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 9.6 g | [I-].[Na+]
reactant | 2-chloroethylpropylether | 9.7 ml | ClCCOCCC | C5H11ClO
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-bromo-3-methyl-1-(2-propoxyethoxy)benzene | 11.0 g | BrC1=C(C=C(C=C1)OCCOCCC)C | C12H17BrO2
